US07638540B2
To a solution (10 ml) of 1-(3-amino-5-bromobenzofuran-2-yl)ethanone (0.2 g, 0.79 mmol) in water-free THF was added dropwise a solution (5 ml) of 5-methylisoxazole-4-carbonyl chloride (0.10 g, 0.79 mmol) in water-free THF under a nitrogen gas with vigorous stirring at 26-28° C. over 5 min. The reaction solution was heated at 65° C. for 2 hr. The reaction mixture was cooled to room temperature and the precipitate was collected by filtration. The precipitate was recrystallized from ethyl acetate to give N-(2-acetyl-5-bromobenzofuran-3-yl)-5-methylisoxazole-4-carboxamide as pale-yellow needle crystals (0.19 g, yield 68.0%).

reactant | 1-(3-amino-5-bromobenzofuran-2-yl)ethanone | 0.79 mmol, 10 ml, 0.2 g | NC1=C(OC2=C1C=C(C=C2)Br)C(C)=O | C10H8BrNO2
reactant | 5-methylisoxazole-4-carbonyl chloride | 0.79 mmol, 5 ml, 0.10 g | CC1=C(C=NO1)C(=O)Cl | C5H4ClNO2
solvent | water | O | H2O
product | N-(2-acetyl-5-bromobenzofuran-3-yl)-5-methylisoxazole-4-carboxamide | C(C)(=O)C=1OC2=C(C1NC(=O)C=1C=NOC1C)C=C(C=C2)Br | C15H11BrN2O4
